US05990142
10B 2-Benzylthiomethyl-2,3-dihydrobenzofuran-2-carboxylic acid
A solution of ethyl 2-benzylthiomethyl-2,3-dihydrobenzofuran-2-carboxylate (2.70 g, 8.53 mmol) in ethanol (100 ml) was added with a solution of 1M potassium hydroxide. (42.6 ml). The mixture was refluxed under stirring for 3 h, after that was neutralized with 1M HCl and ethanol was evaporated off under reduced pressure. The resulting crude was suspended in water (30 ml) and extracted with ethyl acetate (4×30 ml). The organic phase was dried and the solvent was evaporated off under reduced pressure, to obtain 2.172 g of the title compound as a brown solid with melting point 125-127° C. (85% yield).

reactant | ethyl 2-benzylthiomethyl-2,3-dihydrobenzofuran-2-carboxylate | 8.53 mmol, 2.70 g | C(C1=CC=CC=C1)SCC1(OC2=C(C1)C=CC=C2)C(=O)OCC | C19H20O3S
reactant | potassium hydroxide | 1M | [OH-].[K+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Benzylthiomethyl-2,3-dihydrobenzofuran-2-carboxylic acid | 2.172 g, 85% yield | C(C1=CC=CC=C1)SCC1(OC2=C(C1)C=CC=C2)C(=O)O | C17H16O3S
